US06767909B2
4-Benzylamino-N-(4,6-dimethylpyrimidin-2-yl)-benzenesulfonamide
100 mg (0.36 mmol) sulfamethazine and 70.8 μl (0.60 mmol) benzyl bromide were dissolved in 4 ml methanol. Caesium carbonate (113.4 mg, 0.35 mmol) was added and solution was refluxed overnight with stirring. The reaction mixture was then evaporated to dryness, and purified on silica using gradient elution (chloroform to 2% methanol in chloroform) to obtain white crystals in a yield similar to that described in example 1 for step III. 1H NMR (CDCl3, 500 MHz): 7.93 (2H, m), 7.31 (5H, m), 6.58 (3H, m), 4.36 (2H, s), 2.34 (6H, s); MS (ESI+): m/z 369 (M+H)+.

reactant | sulfamethazine | 0.36 mmol, 100 mg | CC=1C=C(N=C(N1)NS(=O)(=O)C=2C=CC(=CC2)N)C | C12H14N4O2S
reactant | benzyl bromide | 0.60 mmol, 70.8 μl | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Caesium carbonate | 0.35 mmol, 113.4 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | methanol | 4 ml | CO | CH4O
product | 4-Benzylamino-N-(4,6-dimethylpyrimidin-2-yl)-benzenesulfonamide | C(C1=CC=CC=C1)NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=CC(=N1)C)C | C19H20N4O2S
